* Schematics Netlist *



V_V1         $N_0001 0 10v
R_R4         0 $N_0002  22k  
R_RC         $N_0003 $N_0001  3.3k  
Q_Q4         $N_0003 $N_0002 0 Q2N2222
R_R1         $N_0002 $N_0001  228k  
