* Schematics Netlist *



V_V1         $N_0001 0 20
R_R1         $N_0001 $N_0002  5k  
R_R2         0 $N_0002  4k  
I_I1         $N_0003 $N_0002 DC 2mA  
R_R3         0 $N_0003  1k  
