* Schematics Netlist *



R_R2         $N_0001 a  10  
V_V1         $N_0001 0 100v
R_R1         a b  5  
R_R4         $N_0002 b  5  
R_R5         0 d  10  
X_H1    b d $N_0002 0 Schematic2_H1 
R_R3         $N_0003 a  10  
G_G1         $N_0003 0 a b 10

.subckt Schematic2_H1 1 2 3 4  
H_H1         3 4 VH_H1 10
VH_H1         1 2 0V
.ends Schematic2_H1
