* Schematics Netlist *



Q_Q1         $N_0002 $N_0001 $N_0003 Q2N3904
Q_Q5         $N_0005 $N_0004 $N_0006 Q2N3904
V_V2         $N_0007 0 10v
R_R1         $N_0001 $N_0007  57.3k  
R_R4         $N_0007 $N_0002  3.3k  
R_R3         $N_0008 i  150  
C_C1         $N_0008 $N_0001  47uf  
R_R6         $N_0007 $N_0004  57.3k  
R_R7         $N_0004 0  22k  
R_R9         $N_0007 $N_0005  3.3k  
R_R8         $N_0006 0  2.2k  
C_C4         o $N_0005  47uf  
C_C2         $N_0002 $N_0004  47uf  
R_R2         0 $N_0001  22k  
V_Vi         i 0 DC 0V AC 1mv 
R_R5         $N_0003 0  2.2k  
C_C3         0 $N_0003  47u  
C_C5         $N_0006 $N_0009  47uf  
R_R11         $N_0008 $N_0009  1k  
R_RL         o 0  3.3k  
