* Schematics Netlist *



J_J1         $N_0002 $N_0001 s J2N3822 
R_R1         $N_0001 $N_0002  6.8meg  
V_V1         $N_0002 0 20v
C_C1         $N_0003 $N_0001  .47uf  
C_C2         s o  .47uf  
V_V3         $N_0003 0 DC 0V AC 150mv 
R_R2         0 $N_0001  2.7meg  
R_R4         0 o  2.7k  
R_R3         0 s  3.3k  
