* Schematics Netlist *



C_C3         $N_0001 o  .47uf  
C_C1         i $N_0002  .47uf  
R_Rg1         $N_0002 $N_0003  6.8meg  
R_Rd         $N_0001 $N_0003  2.7k  
R_RL         0 o  2.7k  
V_V2         i 0  
+SIN 0 150mv 100khz 0 0 0
R_Rg2         0 $N_0002  2.7meg  
V_VDD         $N_0003 0 20v
J_J1         $N_0001 $N_0002 s J2N3822 
R_Rs         0 s  3.3k  
C_C6         0 s  .47uf  
