* Schematics Netlist *



R_R1         $N_0002 $N_0001  1  
V_Vgg         $N_0003 0 0V
V_Vdd         $N_0001 0 20v
M_M1         $N_0002 $N_0003 0 0 IRF150
