* Schematics Netlist *



R_R1         $N_0002 $N_0001  1  
V_Vgg         0 $N_0003 0V
V_Vdd         0 $N_0001 20v
M_M2         $N_0002 $N_0003 0 0 IRF9140
