* Schematics Netlist *



V_VDD         $N_0001 0 10v
R_R2         $N_0002 $N_0001  1k  
V_Vgg         $N_0003 0 0V
J_J1         $N_0002 $N_0003 0 J2N3819 
