* Schematics Netlist *



Q_Q1         $N_0002 $N_0001 $N_0003 Q2N3904
V_V1         $N_0004 0 10v
R_R1         $N_0001 $N_0004  57.3k  
R_R2         $N_0002 $N_0004  3.3k  
C_C1         $N_0002 o  47uF  
C_C2         $N_0005 $N_0001  47uF  
V_V2         i 0 DC 0V AC 1mv 
R_R4         0 $N_0001  22k  
R_RS         $N_0005 i  150  
R_R6         0 $N_0006  100  
R_R5         $N_0006 $N_0003  2.1k  
C_C3         $N_0006 $N_0003  47uF  
R_R7         0 o  3.3k  
