* Schematics Netlist *



R_R1         $N_0001 V1  1k  
R_R2         V3 V1  10k  
R_10k         V1 Vo  1k  
V_V2         0 $N_0002 10v
X_U1         0 V3 $N_0003 $N_0002 Vo uA741
R_R3         0 V3  10  
V_V3         $N_0003 0 15v
V_V1         $N_0001 0  
+SIN 0 2 5 0 0 0
