* Schematics Netlist *



R_R1         $N_0002 $N_0001  1k  
V_V1         $N_0002 0  
+SIN    0 0 0
R_R3         $N_0003 $N_0001  10k  
R_10k         $N_0001 Vo  1k  
V_V2         0 $N_0004 10v
X_U4         0 $N_0003 $N_0005 $N_0004 Vo uA741
R_R4         0 $N_0003  10  
V_V3         $N_0005 0 15v
