* Schematics Netlist *



V_V1         $N_0001 0 15v
V_V2         0 $N_0002 15v
X_U1         $N_0003 v7 $N_0001 $N_0002 Vo uA741
R_R2         0 $N_0003  50  
R_R4         0 v7  1k  
R_R5         v7 Vo  50  
