* Schematics Netlist *



V_V1         $N_0001 0 15v
V_V2         0 $N_0002 15v
X_U1         0 v7 $N_0001 $N_0002 Vo uA741
R_R8         v7 Vo  1meg  
